US04822787
A mixture of (2S, 4R)-4-t-butyldimethylsilyloxy-2-hydroxymethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (10.0 g), methanol (100 ml) and 20% palladium hydroxide on carbon (0.5 g) was stirred under atmospheric pressure of hydrogen at ambient temperature for 3 hours. The catalyst was filtered off and the filtrate was concentrated under reduced pressure to give (2S,4R)-4-t-butyldimethylsilyloxy-2-hydroxymethylpyrrolidine. To a solution of the compound obtained above in a mixture of tetrahydrofuran (100 ml) and water (100 ml) was dropwise added a solution of chloroacetyl chloride (5.0 ml) in tetrahydrofuran (10 ml) under ice-cooling with stirring, keeping the pH between 8-9 with 4N aqueous sodium hydroxide. The mixture was stirred at the same condition for 2 hours and extracted with a mixture of ethyl acetate and tetrahydrofuran (1:1 V/V) (100 ml ×5). The solution was dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (200 g) and eluted with a mixture of methanol and dichloromethane (1:99 V/V) to give (2S,4R)-4-t-butyldimethylsilyloxy-1-chloroacetyl-2-(hydroxymethyl)pyrrolidine (4.22 g).

reactant | (2S, 4R)-4-t-butyldimethylsilyloxy-2-hydroxymethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 10.0 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CO | C19H30N2O6Si
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 0.5 g | [OH-].[OH-].[Pd+2]
solvent | methanol | 100 ml | CO | CH4O
product | (2S,4R)-4-t-butyldimethylsilyloxy-2-hydroxymethylpyrrolidine | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](NC1)CO | C11H25NO2Si
